US08119805B2
Stage (i): (1-(3-(Trifluoromethyl)phenylsulfonyl)piperidin-2-yl)methanol
3-(Trifluoromethyl)benzenesulfonic acid chloride (1 eq), dissolved in methylene chloride (65 ml), was added dropwise to a cooled solution (0° C.) of 2-piperidinemethanol (40 mmol, 1.1 eq) in methylene chloride (160 ml) and triethylamine (2.5 eq). When the addition was complete, the cooling bath was removed and the reaction mixture was stirred at room temperature until, according to thin layer chromatography control, the reaction was complete (90 min). Hydrogen chloride solution (0.5 mol/l, 75 ml) was added, the mixture was stirred for 15 min, the phases were separated and the organic phase was washed with water, dried over sodium sulfate and concentrated in vacuo. Yield: 28%

reactant | 3-(Trifluoromethyl)benzenesulfonic acid chloride | 1 eq | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | 2-piperidinemethanol | 40 mmol, 1.1 eq | N1C(CCCC1)CO | C6H13NO
reactant | triethylamine | 2.5 eq | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 65 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
product | (1-(3-(Trifluoromethyl)phenylsulfonyl)piperidin-2-yl)methanol | Yield: 28% | FC(C=1C=C(C=CC1)S(=O)(=O)N1C(CCCC1)CO)(F)F | C13H16F3NO3S
